US09163020B2
See FIG. 16(b). To a stirred solution of 1-(5-fluoro-2-methoxybenzyl)-7-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (0.22 g, 0.000699 moles) in dichloromethane (10 mL) were added 2-fluoroethan-1-amine (0.06 g, 0.000836 moles), triethylamine (0.29 ml, 0.002 moles) and T3P (1.32 ml, 0.002 moles) and the mixture was stirred for 16 h at room temperature. The reaction mixture was poured in to water and extracted with dichloromethane. The combined organic layer was washed with water, brine and the solvent was evaporated under reduced pressure. The crude was purified by flash column chromatography using 50% ethyl acetate in hexane to afford N-(cyclopropylmethyl)-1-(5-fluoro-2-methoxybenzyl)-7-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide as a off-white solid. Yield-24%. ES+MS m/z: 368. 1H NMR (400 MHz, DMSO-d6) δ ppm: 0.22-0.24 (m, 2H ), 0.48-0.50 (m, 2H ), 1.05-1.09 (m, 1H ), 2.44 (s, 3H ), 3.28 (t, 2H , J=6.2 Hz), 3.86 (s, 3H ), 5.63 (s, 2H ), 5.97-6.00 (m, 1H ), 7.03-7.04 (m, 1H ), 7.12-7.14 (m, 2H ), 8.22 (s, 1H ), 8.37 (d, 1H , J=4.8 Hz), 9.01 (t, 1H , J=5.6 Hz).

reactant | 1-(5-fluoro-2-methoxybenzyl)-7-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.000699 moles, 0.22 g | FC=1C=CC(=C(CN2C=C(C3=NC=CC(=C32)C)C(=O)O)C1)OC | C17H15FN2O3
reactant | 2-fluoroethan-1-amine | 0.000836 moles, 0.06 g | FCCN | C2H6FN
reactant | triethylamine | 0.002 moles, 0.29 ml | C(C)N(CC)CC | C6H15N
reactant | T3P | 0.002 moles, 1.32 ml | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(cyclopropylmethyl)-1-(5-fluoro-2-methoxybenzyl)-7-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | Yield-24% | C1(CC1)CNC(=O)C1=CN(C=2C1=NC=CC2C)CC2=C(C=CC(=C2)F)OC | C21H22FN3O2
